US07199150B2
Subsequently, to a suspension of zirconium chloride (24.9 g, 0.11 mol) in tetrahydrofuran (500 ml) was added slowly sodium borohydride (20.5 g, 0.54 mol) in portions with stirring under a nitrogen atmosphere, and the resulting mixture was stirred at room temperature for 20 minutes. After stirring, to the reaction mixture was added dropwise a solution of cyclohexanone trimethylene ketal (16.9 g, 0.11 mol) obtained above in tetrahydrofuran (170 ml) with stirring while ice-cooling under a nitrogen atmosphere, and then the resulting mixture was stirred at room temperature for one day. After stirring, to the reaction mixture was added ice-chilled 2N hydrochloric acid (600 ml) with stirring under ice-cooling to quench the reaction, and then the tetrahydrofuran was evaporated in vacuo. The aqueous layer which remained was extracted with ethyl acetate, and the extract was washed with saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate. After filtration, the solvent was removed in vacuo, and the residue was purified by chromatography on a silica gel column using a mixed solvent of hexane and ethyl acetate (10:1–5:2) as the eluent to afford 3-cyclohexyloxypropan-1-ol (13.4 g, yield: 78%).

reactant | sodium borohydride | 0.54 mol, 20.5 g | [BH4-].[Na+]
reactant | cyclohexanone trimethylene ketal | 0.11 mol, 16.9 g | C1CCOC2(CCCCC2)O1 | C9H16O2
reactant | hydrochloric acid | 2N, 600 ml | Cl | ClH
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 170 ml | O1CCCC1 | C4H8O
catalyst | zirconium chloride | 0.11 mol, 24.9 g | [Cl-].[Zr+4].[Cl-].[Cl-].[Cl-]
product | 3-cyclohexyloxypropan-1-ol | 13.4 g, yield: 78% | C1(CCCCC1)OCCCO | C9H18O2
